US06790860B2
SO2NHR (via NSO2Cl) Following a procedure described in U.S. Pat. No. 4,868,308: 2.12 ml (21.5 mmol) Alpha-picoline and 0.19 ml (2.8 mmol) chloro sulfonic acid were added at −10° C. to 30 ml 1,2-dimethoxyethane, warmed up to 10° C. and treated with 431 mg (0.93 mmol) of (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine. The reaction was stirred at room temperature over night, treated with 0.32 ml (3.5 mmol) POCl3 and after 4 h at room temperature with 5 ml 8.03 M MeNH2 in EtOH. The reaction was stirred over night and extracted with aqueous 10% KHSO4/EtOAc (3×), the organic phases were washed with 10% NaCl. The crude product was crystallized from CH2Cl2/Et2O at −20° C. to give 147 mg (28%) of (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine-1-sulfonic acid methylamide, mp 140-142° C., MS: 581 (M+Na+).

reactant | Alpha-picoline | 21.5 mmol, 2.12 ml | N1=C(C=CC=C1)C | C6H7N
reactant | chloro sulfonic acid | 2.8 mmol, 0.19 ml | ClS(=O)(=O)O | ClHO3S
reactant | (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine | 0.93 mmol, 431 mg | C(C1=CC=CC=C1)OC[C@H]1NC[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H31NOS
reactant | POCl3 | 3.5 mmol, 0.32 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | MeNH2 | 8.03 M, 5 ml | CN | CH5N
solvent | EtOH | CCO | C2H6O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine-1-sulfonic acid methylamide | 147 mg, 28% | CNS(=O)(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=CC=CC=C1 | C32H34N2O3S2
